US07579474B2
4-[4-METHYL-3-(TRIFLUOROMETHYL)PHENYL]-PIPERIDIN-4-OL
According to Preparation 2: Tert-butyl 4-[4-methyl-3-(trifluoro-methyl)phenyl]-4-hydroxypiperidine-1-carboxylate (5.5 g, 15.3 mmol, methylen chloride (30 ml), trifluoroacetic acid (4.5 ml). Yield: 1.97 g. MS m/z (rel. intensity, 70 eV) 259 (M+, 14), 241 (84), 240 (43), 187 (19), 56 (bp).

reactant | Tert-butyl 4-[4-methyl-3-(trifluoro-methyl)phenyl]-4-hydroxypiperidine-1-carboxylate | CC1=C(C=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O)C(F)(F)F | C18H24F3NO3
reactant | trifluoroacetic acid | 4.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylen chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-METHYL-3-(TRIFLUOROMETHYL)PHENYL]-PIPERIDIN-4-OL | CC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C13H16F3NO
